US07858624B2
To a solution of (R)-tert-butyl 3-((S)-4-acetamido-1-(6-fluoro-3′-methylbiphenyl-3-yl)-1-hydroxybutyl)piperidine-1-carboxylate (380 mg, 0.76 mmol) in anhydrous toluene (8 mL) was added Burgess reagent (352 mg, 1.47 mmol). The reaction mixture was stirred under reflux overnight. The solvent was removed and the residue was partitioned between EtOAc and H2O. The aqueous layer was extracted with EtOAc (3×10 mL). The combined organic extracts were washed with brine, dried over Na2SO4 and filtered. The filtrate was concentrated in vacuo and the residual oil was purified by preparative tlc to afford (S)-tert-butyl 3-(4-acetamido-1-(6-fluoro-3′-methylbiphenyl-3-yl)but-1-enyl)piperidine-1-carboxylate (110 mg, 30% yield). 1H NMR (400 MHz, MeOH):7.33-7.39 (m, 2 H), 7.13-7.23 (m, 2 H), 6.95-7.03 (m, 3 H), 5.29-5.33 (m, 1 H), 3.93-4.15 (m, 1 H), 3.78-3.91 (m, 1 H), 3.00-3.04 (m, 2H), 2.40-2.53 (m, 1 H), 2.37 (d, 3 H), 1.89 (s, 3 H), 1.75 (m, 1H), 1.44-1.62 (m, 4 H), 1.41 (s, 9 H), 1.16-1.32 (m, 3H), 1.01 (m, 1 H). MS (E/Z): 481 (M+H+)

reactant | (R)-tert-butyl 3-((S)-4-acetamido-1-(6-fluoro-3′-methylbiphenyl-3-yl)-1-hydroxybutyl)piperidine-1-carboxylate | 0.76 mmol, 380 mg | C(C)(=O)NCCC[C@@](O)(C=1C=C(C(=CC1)F)C1=CC(=CC=C1)C)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C29H39FN2O4
reactant | Burgess reagent | 1.47 mmol, 352 mg | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-tert-butyl 3-(4-acetamido-1-(6-fluoro-3′-methylbiphenyl-3-yl)but-1-enyl)piperidine-1-carboxylate | 110 mg, 30% yield | C(C)(=O)NCCC=C(C=1C=C(C(=CC1)F)C1=CC(=CC=C1)C)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C29H37FN2O3
